US06790854B2
(d) 1-(Ethoxycarbonyl)-4-(ethoxycarbonylaminomethyl)-4-(2-methylphenyl)Piperidine
Subsequently, the obtained 4-aminomethyl-1-(ethoxycarbonyl)-4-(2-methylphenyl)piperidine was dissolved in dichloromethane (10 ml), added with ethyl chloroformate (0.18 ml) and triethylamine (0.26 ml) and stirred at room temperature for 30 minutes. The reaction mixture was added with water (10 ml), and the layers were separated. Then, the aqueous layer was further extracted with dichloromethane (10 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate=2:1) to obtain 372 mg of the title compound. Yield: 51% (for the two steps).

reactant | 4-aminomethyl-1-(ethoxycarbonyl)-4-(2-methylphenyl)piperidine | NCC1(CCN(CC1)C(=O)OCC)C1=C(C=CC=C1)C | C16H24N2O2
reactant | ethyl chloroformate | 0.18 ml | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.26 ml | C(C)N(CC)CC | C6H15N
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(Ethoxycarbonyl)-4-(ethoxycarbonylaminomethyl)-4-(2-methylphenyl)Piperidine | 372 mg, Yield: 51% | C(C)OC(=O)N1CCC(CC1)(C1=C(C=CC=C1)C)CNC(=O)OCC | C19H28N2O4
